US07763608B2
To a solution of 1-(4-(4-(azidomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one prepared above (203 mg, 0.695 mmol) in MeOH (6 mL) and EtOAc (6 mL), SnCl2 2H2O (343 mg, 1.52 mmol) was added. After the mixture was heated to reflux for 1 h, it was concentrated in vacuo. The residue was purified by HPLC to give 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one (145 mg). MS 267 (M+H).

reactant | 1-(4-(4-(azidomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | N(=[N+]=[N-])CC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H12N6O
reactant | SnCl2 | Cl[Sn]Cl
solvent | MeOH | 6 mL | CO | CH4O
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
product | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one | 145 mg | NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C15H14N4O
